US03946027
4-(3'-Chlorophenyl)-1,4-dihydropyridine-2,3,5,6-tetracarboxylic acid tetraethyl ester. ##SPC45##
14.1 g of 3-chlorobenzaldehyde, 19 g of oxalacetic acid diethyl ester and 18.8 g of iminosuccinic acid diethyl ester in 60 ccs of ethanol are heated to the boil overnight and subsequently evaporated in vacuo. Yellow oil.

reactant | 3-chlorobenzaldehyde | 14.1 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | oxalacetic acid diethyl ester | 19 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | iminosuccinic acid diethyl ester | 18.8 g | C(C)OC(C(CC(=O)OCC)=N)=O | C8H13NO4
solvent | ethanol | C(C)O | C2H6O
product | 4-(3'-Chlorophenyl)-1,4-dihydropyridine-2,3,5,6-tetracarboxylic acid tetraethyl ester | C(C)OC(=O)C=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)Cl)C(=O)OCC)C(=O)OCC | C23H26ClNO8
